US06767914B2
In one embodiment, the present invention contemplates methods of synthesis of difluoroflosequinan (3-difluoromethylsulfinyl-7-fluoro-1-methyl-4-quinolone). In one embodiment, a second fluorine atom is introduced onto a side chain of 7-fluoro-3-fluoromethylthio-1-methyl-4-quinolone, to produce 3-difluoromethylthio-7-fluoro-1-methyl-4-quinolone, which is subsequently oxidized to produce 3-difluoromethylsulfinyl-7-fluoro-1-methyl-4-quinolone. In one embodiment, the method comprises: a) providing (i) 7-fluoro-3-fluoromethylthio-1-methyl-4-quinolone, (ii) SELECTFLUOR and (iii) triethylamine and b) reacting said 7-fluoro-3-fluoromethylthio-1-methyl-4-quinolone, SELECTFLUOR and triethylamine in a solvent under conditions such that 3-difluoromethylthio-7-fluoro-1-methyl-4-quinolone is produced and c) further reacting said 3-difluoromethylthio-7-fluoro-1-methyl-4-quinolone with m-chloroperbenzoic acid (MCPBA) in a solvent under conditions such that 3-difluoromethylsulfinyl-7-fluoro-1-methyl-4-quinolone is produced. In some embodiments, the solvent in step b) is acetronitrile. In some embodiments, the solvent in step c) is dichloromethane (DCM)

reactant | 3-difluoromethylsulfinyl-7-fluoro-1-methyl-4-quinolone | FC(S(=O)C1=CN(C2=CC(=CC=C2C1=O)F)C)F | C11H8F3NO2S
reactant | 7-fluoro-3-fluoromethylthio-1-methyl-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)SCF)=O | C11H9F2NOS
product | 3-difluoromethylthio-7-fluoro-1-methyl-4-quinolone | FC(SC1=CN(C2=CC(=CC=C2C1=O)F)C)F | C11H8F3NOS
